US04262004
To a stirred mixture of 6.4 parts of N-(4-fluorophenyl)-N'-(2-hydroxyethyl)thiourea and 80 parts of tetrachloromethane is added dropwise a solution of 4.8 parts of bromine in 40 parts of tetrachloromethane between 20° and 25° C. Upon completion, stirring is continued for 1 hour at reflux temperature. The reaction mixture is cooled to room temperature. The precipitated product is filtered off, washed with acetonitrile and dried, yielding 5.8 parts of 2-[(6-fluoro-2-benzothiazolyl)amino]ethanol monohydrobromide; mp. 163.6° C.

reactant | N-(4-fluorophenyl)-N'-(2-hydroxyethyl)thiourea | FC1=CC=C(C=C1)NC(=S)NCCO | C9H11FN2OS
reactant | bromine | BrBr | Br2
solvent | tetrachloromethane | ClC(Cl)(Cl)Cl | CCl4
product | 2-[(6-fluoro-2-benzothiazolyl)amino]ethanol monohydrobromide | Br.FC1=CC2=C(N=C(S2)NCCO)C=C1 | InChI=1S/C9H9FN2OS.BrH/c10-6-1-2-7-8(5-6)14-9(12-7)11-3-4-13;/h1-2,5,13H,3-4H2,(H,11,12);1H
